US04579584
N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-tert-butylamino-6-methoxy-1,3,5-triazin-2-yl)-urea
A mixture of 5.0 g of 2-difluoromethoxyphenyl-sulfonylisocyanate and 4.0 g of 2-amino-4-tert-butylamino-6-methoxy-1,3,5-triazine is stirred in 60 ml of absolute dioxane for 3 hours at 70°-80° C. After filtration of the hot reaction mixture through active charcoal, 6.9 g of N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-tert-butylamino-6-methoxy-1,3,5-triazin-2-yl)-urea, m.p. 213°-214° C., crystallise out on cooling of the solution.

reactant | 2-difluoromethoxyphenyl-sulfonylisocyanate | 5.0 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO4S
reactant | 2-amino-4-tert-butylamino-6-methoxy-1,3,5-triazine | 4.0 g | NC1=NC(=NC(=N1)NC(C)(C)C)OC | C8H15N5O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-tert-butylamino-6-methoxy-1,3,5-triazin-2-yl)-urea | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)NC(C)(C)C)OC)F | C16H20F2N6O5S
